US06689909B1
(R)-N-(2,3-Dichloro-4-ethylsulphinylphenyl)-2-hydroxy-2-methyl-3,3,3-trifluoropropanamide
t-Butyl hydrogen peroxide (2.4 ml of a 5.5M solution in decane) was added to a solution of (R)-N-[2,3-dichloro-4-ethylsulphanylphenyl]-2-hydroxy-2-methyl-3,3,3-trifluoropropanamide Method 1) (0.23 g) and d-10-camphorsulphonic acid (0.018 g) in chloroform (10 ml) and the mixture was stirred for 18 hours. Volatile material was removed by evaporation and the residue was purified by chromatography on a silica gel Mega Bond Elut column eluting with 0-50% EtOAc/isohexane to give the title compound (0.22 g) as a white solid. NMR (CDCl3+1 drop DMSO): 1.21-1.28 (m, 3H), 1.71 (s, 3H), 2.77-2.89 (m, 1H), 3.04-3.16 (m, 1H), 7.14 (s, 1H), 7.78 (d, 1H), 8.66 (d, 1H), 9.73 (s, 1H); m/z: 376.

reactant | t-Butyl hydrogen peroxide | C(C)(C)(C)OO | C4H10O2
reactant | (R)-N-[2,3-dichloro-4-ethylsulphanylphenyl]-2-hydroxy-2-methyl-3,3,3-trifluoropropanamide | ClC1=C(C=CC(=C1Cl)SCC)NC([C@@](C(F)(F)F)(C)O)=O | C12H12Cl2F3NO2S
solvent | decane | CCCCCCCCCC | C10H22
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | (R)-N-(2,3-Dichloro-4-ethylsulphinylphenyl)-2-hydroxy-2-methyl-3,3,3-trifluoropropanamide | 0.22 g | ClC1=C(C=CC(=C1Cl)S(=O)CC)NC([C@@](C(F)(F)F)(C)O)=O | C12H12Cl2F3NO3S
